US05166367
7-[3-[[(2,3-Dihydro-5-methoxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one
2,3-Dihydro-5-methoxy-1,4-benzodioxin-2-methanamine (1.29 g, 6.61 mmole), 7-(3-chloropropoxy)coumarin (1.59 g, 6.7 mmole), diisopropylethylamine (2.5 ml, 14.35 mmole) and sodium iodide (4.96 g, 33.1 mmole) were combined in 75 ml of DMF and heated at 80°-100° C. for 3 days under a nitrogen atmosphere. The solvent was then removed and replaced with dichloromethane. The mixture was washed with an equal volume of saturated aqueous sodium bicarbonate, with saturated aqueous sodium chloride, dried over magnesium sulfate, filtered, and concentrated in vacuum. The residue was column chromatographed on silica gel using 30% ethyl acetate/dichloromethane as eluant. The product-containing fractions (Rf=0.25 on silica gel tlc with 2.5% methanol/dichloromethane) were combined and concentrated in vacuum and the residue (0.68 g) redissolved in dichloromethane and boiled on a hot plate, the dichloromethane gradually being replaced with isopropanol. 2N HCl/isopropanol (4 ml) was added and the title compound was collected by filtration and dried in vacuum at 80° C. The procedure yielded 0.64 g of white solid, monohydrochloride, m.p. 202°-204° C.

reactant | 2,3-Dihydro-5-methoxy-1,4-benzodioxin-2-methanamine | 6.61 mmole, 1.29 g | COC1=CC=CC=2OC(COC21)CN | C10H13NO3
reactant | 7-(3-chloropropoxy)coumarin | 6.7 mmole, 1.59 g | ClCCCOC1=CC=C2C=CC(OC2=C1)=O | C12H11ClO3
reactant | diisopropylethylamine | 14.35 mmole, 2.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 33.1 mmole, 4.96 g | [I-].[Na+]
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 7-[3-[[(2,3-Dihydro-5-methoxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one | 0.64 g | COC1=CC=CC=2OC(COC21)CNCCCOC2=CC1=C(C=CC(O1)=O)C=C2 | C22H23NO6
